US07115611B2
In analogy to the procedures described in examples 8A] and 31B], 3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 60B]) was reacted with [rac]-3-(1-chloro-3-methyl-butyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (prepared from [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (example 1M]) by i) oxidation with MnO2 in analogy to the procedure described in example 3A] to yield 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbaldehyde; ii) treatment with isobutyl magnesium chloride and iii) reaction with SOCl2 in analogy the procedures described in examples 4A] and 4B]) to give [rac]-3-(2-methyl-4-{3-methyl-1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenyl)-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as light yellow solid.

reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)O)C)=O | C12H16O3
reactant | [rac]-3-(1-chloro-3-methyl-butyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC(CC(C)C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C18H19ClF3N
reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
catalyst | MnO2 | O=[Mn]=O
product | 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbaldehyde | CC1=NC(=CC=C1C=O)C1=CC=C(C=C1)C(F)(F)F | C14H10F3NO
